US06048868
To acetic anhydride (1 ml) cooled to 0° C. is added dropwise formic acid (0.5 ml). The mixture is heated for 15 min. at 50° C. After cooling rapidly to 0° C., 10-methoxyharmalan (200 mg) is added slowly and portionwise and the medium is left stirring for 2 h. The crude product is then taken to dryness and, after separation by chromatography (eluent: EtOAc/pet. ether; 50/50), 1-methylene-2-formyl-6-methoxy-1,2,3,4-tetrahydro-β-carboline is obtained.

reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 10-methoxyharmalan | 200 mg | CC1=C2C(=C3C=C(C=CC3=N2)OC)CCN1 | C13H14N2O
solvent | formic acid | 0.5 ml | C(=O)O | CH2O2
product | 1-methylene-2-formyl-6-methoxy-1,2,3,4-tetrahydro-β-carboline | C=C1N(CCC=2C3=CC(=CC=C3NC12)OC)C=O | C14H14N2O2
